US08304557B2
N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide
A mixture of N-(3-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)-6-methylpyridine-2-carboxamide (14.6 g, 27.5 mmol), trifluoroacetic anhydride (31 mL) and tetrahydrofuran (300 mL) was stirred at room temperature for 1 hr. The reaction solution was concentrated under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, ethanol (200 mL) and 4M aqueous sodium hydroxide solution (80 mL) were added to the residue, and the mixture was stirred at 60° C. for 24 hr. The reaction solution was concentrated under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 0%→100% ethyl acetate-hexane) to give the title compound (2.22 g, 22%) as a pale-brown solid.

reactant | N-(3-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)-6-methylpyridine-2-carboxamide | 27.5 mmol, 14.6 g | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(=O)C1=NC(=CC=C1)C)=O | C27H25N5O5S
reactant | trifluoroacetic anhydride | 31 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide | 2.22 g, 22% | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC(=CC=C2)C)C1 | C20H17N5O2
